US04021557
18.1 gm (0.08 mol) of 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one were dissolved in 180 ml of dimethylformamide at room temperature, 2.88 gm (0.096 mol) of 80% sodium hydride in mineral oil were added to the solution, and the mixture was stirred at 60° C. for 45 minutes. Then, 17.7 gm (0.096 mol) of 2-(N-benzyl-methylamino)-ethyl chloride were added dropwise, and the resulting mixture was stirred at 120° C. for 30 minutes. After evaporation in vacuo, the residue was dissolved in chloroform/dilute acetic acid, and the aqueous phase was separated and made alkaline with concentrated ammonia. The base, which precipitated as an oil, was taken up in chloroform, the solvent was distilled off in vacuo and the oily residue was distilled, yielding 22.4 gm (75% of theory) of 11-[2'-(N-benzyl-methylamino)-ethyl]-6,11-dihydro-6-methyl-5-H-pyrido [2,3-b][1,5]benzodiazepin-5-one, b.p. 212°-216° C. at 0.05 mm Hg.

reactant | 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.08 mol, 18.1 gm | CN1C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C13H11N3O
reactant | sodium hydride | 0.096 mol, 2.88 gm | [H-].[Na+]
reactant | 2-(N-benzyl-methylamino)-ethyl chloride | 0.096 mol, 17.7 gm | C(C1=CC=CC=C1)N(CCCl)C | C10H14ClN
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | 11-[2'-(N-benzyl-methylamino)-ethyl]-6,11-dihydro-6-methyl-5-H-pyrido [2,3-b][1,5]benzodiazepin-5-one | 22.4 gm, 75% | C(C1=CC=CC=C1)N(CCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC=N2)C | C23H24N4O
